US09359314B2
2-chloroethyl cysteine hydrochloride
44 g of 2-hydroxyethyl cysteine was added into a 1000 ml round-bottom flask, dissolved in 600 ml of concentrated hydrochloric acid, heated till the external temperature was 90-95° C., stirred and reacted for 7 h. After the reaction, the system was refrigerated and left to stand overnight, and a large number of needle-like solid was precipitated from the system. The solvent was removed by sucking filtration, the obtained solid was naturally dried to give a gray white solid wherein the mp is 185-186° C., the weight is about 40 g, and the yield is more than 70%. 1H-NMR (400 MHz, D2O) δ: 4.30477-4.26952 (m, 1H), 3.81913-3.78409 (m, 2H), 3.25903 (dd, 1H, J1=4.444 Hz, J2=14.984 Hz), 3.18877 (dd, 1H, J1=7.352 Hz, J2=15.072 Hz), 3.04410-3.00625 (m, 2H).

reactant | 2-hydroxyethyl cysteine | 44 g | OCCN[C@@H](CS)C(=O)O | C5H11NO3S
reactant | hydrochloric acid | 600 ml | Cl | ClH
product | 2-chloroethyl cysteine hydrochloride | yield is more than 70% | Cl.ClCCN[C@@H](CS)C(=O)O | InChI=1S/C5H10ClNO2S.ClH/c6-1-2-7-4(3-10)5(8)9;/h4,7,10H,1-3H2,(H,8,9);1H/t4-;/m0./s1
